US07713982B2
a) 1-methyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione
1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (0.45 g, 1.63 mmol), phenylsilane (0.25 ml, 2.03 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.35 g, 0.3 mmol) was dissolved in DCM (10 ml) containing acetic acid (6 ml). The air in the flask was replaced by nitrogen by evacuating the flask then filling with nitrogen (x3) and the reaction mixture heated to 45 C for 4 h. The solution was allowed to cool diluted with DCM then washed with water then saturated sodium bicarbonate solution. The organics were isolated, dried and concentrated to yield crude product. Purification by SPE (silica) eluting with ether provided the product, 0.06 g, 16%. m/z 237 [MH+].

reactant | 1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 1.63 mmol, 0.45 g | CN1C(N(C=2N=CN(C2C1=O)CC=C)CCCCC)=O | C14H20N4O2
reactant | phenylsilane | 2.03 mmol, 0.25 ml | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol, 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-methyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | CN1C(N(C=2N=CNC2C1=O)CCCCC)=O | C11H16N4O2
